US05576321
Preparation of 6-chloro-5-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
The title compound was prepared in a fashion similar to that described in Preparation 30 from 6-chloro-5-methoxyindole (2.0 g, 11 mmol) and 4-piperidone hydrochloride hydrate (3.4 g, 22 mmol). The product was isolated as a yellow solid. Yield 2.4 g (83%). mp 222°-224° C. FDMS m/e=264 (M+ of free base).

reactant | 6-chloro-5-methoxyindole | 11 mmol, 2.0 g | ClC1=C(C=C2C=CNC2=C1)OC | C9H8ClNO
reactant | 4-piperidone hydrochloride hydrate | 22 mmol, 3.4 g | O.Cl.N1CCC(CC1)=O
product | 6-chloro-5-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | ClC1=C(C=C2C(=CNC2=C1)C=1CCNCC1)OC | C14H15ClN2O
